US05712378
To a stirred solution of 3'-O-(4,4'dimethoxytrityl)-5'-formylthymidine (16.3 g, 30.07 mmol) in dioxane (120 ml) at 0° C. was added dropwise, in turn, 36% formaldehyde (24 ml) and 2N NaOH (60 ml). The resulting solution was stirred at room temperature for 6 h. The reaction mixture was cooled to 0° C. and 10% acetic acid in water added dropwise until pH reached 7.5. The mixture was diluted with ethyl acetate (1L), washed with 10% brine (500 ml, then 2×300 ml), dried (Na2SO4), and concentrated. The crude was purified by chromatography on silica (EtOAc-hexane, 3:1) to give 11.45 g (66.3%) of 3'-O-(4,4'-dimethoxytrityl)-4'-C- hydroxymethylthymidine as a colorless powder.

reactant | 3'-O-(4,4'dimethoxytrityl)-5'-formylthymidine | 30.07 mmol, 16.3 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)O[C@H]2C[C@@H](O[C@@H]2C(O)C=O)N2C(=O)NC(=O)C(C)=C2)C=C1 | C32H32N2O8
reactant | formaldehyde | 24 ml | C=O | CH2O
reactant | NaOH | 2N, 60 ml | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3'-O-(4,4'-dimethoxytrityl)-4'-C- hydroxymethylthymidine | 11.45 g, 66.3% | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)O[C@H]2C[C@@H](OC2(CO)CO)N2C(=O)NC(=O)C(C)=C2)C=C1 | C32H34N2O8
